* source COURSE-PROJECT
R_R1         N03901 N03913  2k TC=0,0 
R_R4         0 N03987  5k TC=0,0 
C_C6         0 N04125  15u  TC=0,0 
V_E2         N03997 N04125 DC 0Vdc AC 9Vac 
L_L5         N03987 N03997  3.9mH  
V_E1         0 N03901 DC 0Vdc AC 3Vac 
C_C2         N03987 N03913  3u  TC=0,0 
I_Je3         N03997 N03913 DC 0Adc AC 1mAac 
